US06972340B2
1,1′-biphenyl-3,5-diol
A mixture of 5-phenyl-1,3-cyclohexanedione (2.5 g, 13 mM) and 10% Pd/C (0.5 g) in phenyl ether (30 mL) was heated to 230° C. over 30 minutes and held at 230° C. for 2.5 hours. The reaction was cooled, taken up in CH2Cl2 and filtered through Dicalite. The filtrate was concentrated and the residue purified by chromatography (CH2Cl2, then 5-10% EtOAc/CH2Cl2) to give the desired product.

reactant | 5-phenyl-1,3-cyclohexanedione | 13 mM, 2.5 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
solvent | phenyl ether | 30 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1,1′-biphenyl-3,5-diol | C1(=CC(=CC(=C1)O)O)C1=CC=CC=C1 | C12H10O2
